US05688795
3-[4-(2-Methoxyphenyl)piperazin-1-yl]propionamide (3 g, 11.4 mmol) was suspended in 30 mL of freshly distilled THF and borane-tetrahydrofuran complex (17.5 mL, 1M in THF, 17.5 mmol) was added at a rate such that the reaction temperature remained below 26° C. The mixture was stirred at gentle reflux (67° C.) for 6.5 hours, with additional borane-tetrahydrofuran complex (6 mL, 4 mL and 4 mL) added after 1, 3.5 and 5 hours, respectively. The mixture was cooled to 22° C. and then hydrochloric acid (20 mL, 6N, 120 mmol) was added at a rate such that the reaction temperature did not exceed 35° C. The mixture was heated at reflux for 20 minutes and cooled to room temperature and then 50% sodium hydroxide was added at a rate such that the reaction temperature did not exceed 60° C. The aqueous layer was separated and extracted with THF (2×25 mL). The combined organic layers were dried (K2CO3) and filtered. The filtrate was concentrated under reduced pressure to give 3-[4-(2-methoxyphenyl)-piperazin-1-yl]propylamine (2.5 g, 10 mmol) as an oil.

reactant | 3-[4-(2-Methoxyphenyl)piperazin-1-yl]propionamide | 11.4 mmol, 3 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC(=O)N | C14H21N3O2
reactant | borane tetrahydrofuran | 17.5 mmol, 1M, 17.5 mL | B.O1CCCC1
reactant | hydrochloric acid | 120 mmol, 6N, 20 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 3-[4-(2-methoxyphenyl)-piperazin-1-yl]propylamine | 10 mmol, 2.5 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCN | C14H23N3O
